US06265411B1
Diethyl azodicarboxylate (864μl, 5.5 mmol) was added dropwise to a mixture of 7-hydroxy-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (1.2 g, 3.9 mmol) (prepared as described for the starting material in Example 22), triphenylphosphine (1.44 g, 5.5 mmol) and 2-(2-methoxyethoxy)ethanol (653 μl, 5.5 mmol) in methylene chloride (70 ml) cooled at 0° C. The mixture was stirred for 1.5 hours at ambient temperature and the solvent was removed by evaporation. The residue was purified by column chromatography eluting with a mixture of ethyl acetate/methylene chloride (50/50 followed by 80/20). The purified solid was suspended in ether, collected by filtration and dried under vacuum to give 6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (1.70 g, 100%).

reactant | Diethyl azodicarboxylate | 5.5 mmol, 864μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 7-hydroxy-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 3.9 mmol, 1.2 g | OC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC | C15H18N2O5
reactant | triphenylphosphine | 5.5 mmol, 1.44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(2-methoxyethoxy)ethanol | 5.5 mmol, 653 μl | COCCOCCO | C5H12O3
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 1.70 g, 100% | COC=1C=C2C(N(C=NC2=CC1OCCOCCOC)COC(C(C)(C)C)=O)=O | C20H28N2O7
